US08034812B2
Production of 2-(1-cyano-1-methylethyl)-1,3-thiazole-4-carboxylic acid
To a solution of ethyl 2-(1-cyano-1-methylethyl)-1,3-thiazole-4-carboxylate (0.9 g, 4.0 mmol) in tetrahydrofuran/methanol/water (=12 mL/4.0 mL/4.0 mL) was added lithium hydroxide monohydrate (330 mg, 8.0 mmol), and the reaction mixture was stirred at room temperature for 10 hr. The mixture was concentrated under reduced pressure, and the obtained aqueous solution was adjusted to pH 5 by adding 1N hydrochloric acid. The mixture was extracted with ethyl acetate, and the organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and filtrated. The solvent was evaporated under reduced pressure to give the title compound (256 mg, 53%) as a white powder.

reactant | ethyl 2-(1-cyano-1-methylethyl)-1,3-thiazole-4-carboxylate | 4.0 mmol, 0.9 g | C(#N)C(C)(C)C=1SC=C(N1)C(=O)OCC | C10H12N2O2S
reactant | lithium hydroxide monohydrate | 8.0 mmol, 330 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran methanol water | 12 mL | O1CCCC1.CO.O
product | 2-(1-cyano-1-methylethyl)-1,3-thiazole-4-carboxylic acid | 256 mg, 53% | C(#N)C(C)(C)C=1SC=C(N1)C(=O)O | C8H8N2O2S
